US05654326
By the method used in Example 1, Part D, 1.1 g 14.1 mmol) of 1-[(4-fluorophenyl)methyl]-4-methoxy-2-methyl-1H-indole was O-demethylated by treating it with 16.4 mL of 1M BBr3 /CH2Cl2 to give 881 mg (84% yield) of crude 1-[(4-fluorophenyl)methyl]-4-hydroxy-2-methyl-1H-indole.

reactant | 1-[(4-fluorophenyl)methyl]-4-methoxy-2-methyl-1H-indole | FC1=CC=C(C=C1)CN1C(=CC2=C(C=CC=C12)OC)C | C17H16FNO
reactant | BBr3 CH2Cl2 | 1M, 16.4 mL | B(Br)(Br)Br.C(Cl)Cl
product | 1-[(4-fluorophenyl)methyl]-4-hydroxy-2-methyl-1H-indole | 881 mg, 84% yield | FC1=CC=C(C=C1)CN1C(=CC2=C(C=CC=C12)O)C | C16H14FNO
